US08404859B2
A solution of 2-Amino-4-methyl-thiazole-5-carboxylic acid ethyl ester (1.74 g, 9.343 mmol) and triethylamine (5.2 mL, 37.31 mol) in anhydrous THF (40 mL) was heated to 60° C. and [1-(Tetrahydro-pyran-2-yl)-1H-indazol-4-yl]acetic acid (1.85 g, 7.107 mmol) in anhydrous THF (20 mL) was added followed by the addition of 1-propanephosphonic acid cyclic anhydride, 50 wt. % solution in ethyl acetate (5.2 mL, 8.735 mmol) over 1 min. The reaction mixture was heated at 60° C. for 40 min, cooled, diluted with water (150 mL) and extracted with ethyl acetate (3×150 mL). The organic layers were combined, washed with 1/1 aqueous 2N HCl/brine (100 mL), brine (100 mL), dried over MgSO4, filtered and concentrated under reduced pressure. The resulting crude compound was purified by flash chromatography (33% EtOAc in hexanes) to give 4-Methyl-2-{2-[1-(tetrahydro-pyran-2-yl)-1H-indazol-4-yl]-acetylamino}-thiazole-5-carboxylic acid ethyl ester (2.23 g, 73%) as a yellow foam. MS m/e 429.5 (M+H+).

reactant | 2-Amino-4-methyl-thiazole-5-carboxylic acid ethyl ester | 9.343 mmol, 1.74 g | C(C)OC(=O)C1=C(N=C(S1)N)C | C7H10N2O2S
reactant | triethylamine | 37.31 mol, 5.2 mL | C(C)N(CC)CC | C6H15N
reactant | [1-(Tetrahydro-pyran-2-yl)-1H-indazol-4-yl]acetic acid | 7.107 mmol, 1.85 g | O1C(CCCC1)N1N=CC2=C(C=CC=C12)CC(=O)O | C14H16N2O3
reactant | 1-propanephosphonic acid cyclic anhydride | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
reactant | ethyl acetate | 8.735 mmol, 5.2 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 150 mL | O | H2O
product | 4-Methyl-2-{2-[1-(tetrahydro-pyran-2-yl)-1H-indazol-4-yl]-acetylamino}-thiazole-5-carboxylic acid ethyl ester | 2.23 g, 73% | C(C)OC(=O)C1=C(N=C(S1)NC(CC1=C2C=NN(C2=CC=C1)C1OCCCC1)=O)C | C21H24N4O4S
